Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
___ guided biopsy of thoracic mass

 
History of Present Illness:
___ yo F w/PMHx significant for right breast stage 1, pT1c N0 MX,
grade III ER/PR+ Her2/Neu Negative invasive carcinoma with
lobular and ductal features s/p right partial mastectomy ___,
XRT ___ on letrozole ___ presents as referral
following MRI spine showing new thoracic mass.  

Ms ___ presents following annual MRI breast screening which
incidentally showed ?thoracic mass 2 weeks prior to 
presentation.
She had follow up MR spine imaging which showed a T8 lesion
concerning for metastatic disease versus plasmacytoma

Patient states she has been asymptomatic, but in hindsight does
note that her upper back has felt more 'tired.' She also 
endorsed
some b/l arm heaviness. No associated UE weakness, paresthesias,
poikilothermia. She denies any visual changes, but endorses an ___
year history of multiple episodes of u/l but alternating
'thread-like' auras consisting of light. 

Following her first episode an MRI of brain was performed which
was negative for metastases. Denies weight loss, loss of
appetite, weakness. Denies urinary and fecal
retention/incontinence.  
 ___ MRI Spine w/&w/o contrast  
 IMPRESSION:  
 Enhancing mass measuring 1.6 cm x 1.1 cm T8 posterior central
and slightly left aspect extending to the left pedicle with an
epidural soft tissue component partially effacing the anterior
thecal sac and nearly abutting the spinal cord which does
correlate with the finding on recent breast MRI; differential
would include metastasis and plasmocytoma.  
 Multilevel spondylosis and degenerative disc disease.  
 a/p  
 per ___ onc will need admission for, most importantly,
evaluation of spinal mass by neuro vs ortho spine, complete 
spine
MR and then further evaluation with CT torso w/ and w/o as well
as by ___ for bx.  
 

 
Social History:
___
Family History:
Mass R breast noted ___ bx:  
 Inv ca ductal and lobular features,  
 Path Stage: 1, pT1c N0 MX (from: right, upper outer quadrant,
well differentiated, invasive carcinoma with lobular and ductal
features, grade III, ER Positive PR Positive Her2neu 
unamplified.

 Treatment:  
 1) s/p Right Partial Mastectomy and Sentinel Node Biopsy on
___  
 2) s/p re-excision of lumpectomy cavity anterior margin on
___  
 3) whole breast external beam radiation therapy ___ (___)
completed ___  
 4) letrozole started in ___  

 Other Past Medical History:  

 Thoracic Mass - MRI ___  
 Hypothyroidism  
 Mitral valve prolapse  
 Thyroid nodule  
 Colonic adenoma  
 Syncope  
 Osteopenia  
 Lumbar disc disease  
 Vitamin D deficiency  
 Hypercholesterolemia  
 Osteopenia  
 Family history of macular degeneration  
 Anatomical narrow angle  

 
Physical Exam:
VS:  97.6 PO 140 / 88 83 20 100 ra 
 GENERAL: NAD  
 HEENT:  NC AT. PERRL EOMI.      
 CARDIAC:  RRR S1 and S2 normal. No MRG.
 LUNG:  CTAB. No wheezes or crackles
 ABD:  Soft Nt ND
 EXT: No edema
 NEURO:  Normal knee and triceps reflexes. Normal strength and
sensation in all 4 extremities. No back pain. 
 SKIN:  No rash
 

 
Pertinent Results:
___ 08:15AM BLOOD WBC-6.3 RBC-4.57 Hgb-14.2 Hct-42.3 MCV-93 
MCH-31.1 MCHC-33.6 RDW-13.3 RDWSD-45.4 Plt ___
___ 01:15PM BLOOD WBC-7.4 RBC-4.79 Hgb-14.9 Hct-45.3* 
MCV-95 MCH-31.1 MCHC-32.9 RDW-13.3 RDWSD-46.2 Plt ___
___ 08:15AM BLOOD Glucose-92 UreaN-19 Creat-0.8 Na-140 
K-4.5 Cl-103 HCO3-26 AnGap-16
___ 01:15PM BLOOD Glucose-108* UreaN-16 Creat-0.8 Na-139 
K-4.7 Cl-102 HCO3-25 AnGap-17
___ 08:15AM BLOOD ALT-11 AST-14 AlkPhos-48 TotBili-0.5
___ 01:15PM BLOOD ALT-13 AST-15 LD(LDH)-171 AlkPhos-54 
TotBili-0.6
___ 08:15AM BLOOD TotProt-6.7 Calcium-10.2 Phos-4.0 Mg-2.2
___ 01:15PM BLOOD Albumin-5.0 Calcium-10.6* Phos-3.6 Mg-2.2 
UricAcd-5.1
___ 08:15AM BLOOD PTH-52
___ 08:15AM BLOOD PEP-PND ___ Fr 
K/L-1.2

MRI DONE at ___
/___ MRI Spine w/&w/o contrast  
 IMPRESSION:  
 Enhancing mass measuring 1.6 cm x 1.1 cm T8 posterior central
and slightly left aspect extending to the left pedicle with an
epidural soft tissue component partially effacing the anterior
thecal sac and nearly abutting the spinal cord which does
correlate with the finding on recent breast MRI; differential
would include metastasis and plasmocytoma.  
 Multilevel spondylosis and degenerative disc disease. 

CT torso
NECK, THORACIC INLET, AXILLAE, CHEST WALL: No thyroid lesions.  
No 
supraclavicular adenopathy.  No axillary adenopathy.  Evidence 
of previous 
right axillary clearance.  Surgical clip seen in the lateral 
aspect of the 
right breast.  Small calcific density seen in the lateral aspect 
of the left breast (5, 37). 

UPPER ABDOMEN: Will be reported separately. 
  
MEDIASTINUM: No mediastinal adenopathy. 
  
HILA: No hilar adenopathy. 
  
HEART and PERICARDIUM: Normal cardiac configuration.  No 
pericardial effusion. Mild aortic annular calcification.  No 
obvious coronary artery calcification.  The ascending aorta is 
not dilated. 
PLEURA: No pleural effusion. 
LUNG: 
  
-PARENCHYMA:  No conclusive evidence of pulmonary metastatic 
disease.  2 
indeterminate millimetric pulmonary nodules (6, 138 and 254).  
Mild 
bronchiectasis of the central bronchi but no bronchial wall 
thickening or 
retained secretions to suggest infection/inflammation.  No 
confluent airspace consolidation.  No interstitial lung disease. 
 Mild posterior basal subpleural atelectasis. 
-AIRWAYS:  Patent to the subsegmental level. 
-VESSELS:  The pulmonary arteries not enlarged.  No filling 
defects. 
CHEST CAGE: Sclerotic appearance of the posterior aspect of the 
T8 vertebral body with associated periosteal reaction (6:80) in 
keeping with known metastatic lesion better seen on MRI.  The 
soft tissue component of this lesion is suboptimally visualized 
on this CT. 
Small round sclerotic lesions seen in the T6 vertebral body (6, 
135) which is high signal on the T2 STIR and shows enhancement 
post contrast MRI imaging suggesting a second metastatic bony 
lesion. 
  
IMPRESSION:  
  
Suspected T6 and T8 metastatic bony lesions. 
  
No conclusive evidence of pulmonary metastatic disease. 
2 indeterminate millimetric pulmonary nodules which could be 
re-evaluated on follow-up imaging.  
No hilar or mediastinal adenopathy. 

 
Brief Hospital Course:
#New thoracic epidural mass
She was evaluated by ortho spine who noted that she has no 
symptoms of cord compression. They recommended cervical and 
lumbar MRI. MRI showed no evidence osseous, epidural, or 
leptomeningeal malignancy in the cervical or lumbar spine. 
"Review of the ___ outside thoracic spine MRI 
reveals that, in 
addition to the T8 metastasis described in the outside report, 
there is a 7 mm 
rim enhancing T6 vertebral body lesion, sclerotic on the ___ 
torso CT, which is highly suspicious for an additional 
metastasis. 
3. Questionable tiny metastases within T11 and T12 vertebral 
bodies adjacent 
to prominent basivertebral plexus, without sclerosis on CT, and 
difficult to 
confirm on the present or ___ MRI due to the 
prominent basivertebral plexus. 4. Degenerative changes in the 
cervical and lumbar spine, as detailed above." She also had 
biopsy of her T8 lesions. The procedure was without 
complication. At discharge, the pathology was pending. She will 
follow up with her oncologist for further work up and treatment. 


#Stage 1 ER+,, PR + , HER 2 Negative R breast cancer s\p
resection.
We discontinued her Letrozole in discussion with her oncologist

#Anxiety
She expressed desire to trial pharmacologic therapy to her 
oncologist. She was prescribed Citalopram 20mg QD

# Hypercalcemia
Initial labs showed hypercalcemia, but this resolved.  -  
Calcium now within normal limits. 
- PTHrP pending at discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Letrozole 2.5 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 
The Preadmission Medication list is accurate and complete.
1. Letrozole 2.5 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Citalopram 20 mg PO DAILY 
RX *citalopram 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Levothyroxine Sodium 75 mcg PO DAILY  
3.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.   Thoracic spinal mass
2.   History of breast cancer
3.  Hypothyroidism
4.  Osteoporosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation after a growth was discovered 
near your spinal cord.  You were evaluated by our spine surgeons 
who feel that your spinal cord is stable.  You had CT scans and 
a biopsy of the lesion near your spine. You had an MRI of your 
spine as well. The preliminary reading of your MRI did not show 
involvement of your spinal cord. Please follow up with your 
oncologist to discuss the final results. Please followup with 
your ___ oncologist to get the results and determine the next 
steps.
 
Followup Instructions:
___